US05162326
2,4-Dioxo-6-propyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]-1,2,3,4-tetrahydropyrimidine-3-acetic acid
A mixture of methyl 2,4-dioxo-6-propyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]-1,2,3,4-tetrahydropyrimidine-3-acetate (0.25 g) in methanol (10 ml) and 1N sodium hydroxide (1.5 ml) was heated under reflux for 16 hours. The reaction solution was evaporated to dryness and the residue was dissolved in water. The solution was acidified with 1N hydrochloric acid to give a crystalline product (0.19 g, 79%).

reactant | methyl 2,4-dioxo-6-propyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]-1,2,3,4-tetrahydropyrimidine-3-acetate | 0.25 g | O=C1N(C(=CC(N1CC(=O)OC)=O)CCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C24H24N6O4
solvent | methanol | 10 ml | CO | CH4O
solvent | sodium hydroxide | 1N, 1.5 ml | [OH-].[Na+]
product | 2,4-Dioxo-6-propyl-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]-1,2,3,4-tetrahydropyrimidine-3-acetic acid | 0.19 g, 79% | O=C1N(C(=CC(N1CC(=O)O)=O)CCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1 | C23H22N6O4
